US05262549
8-Hydroxyjulolidine (1.0 g, 5.29 mmol) and methyl 4,4-dimethyl-3-oxopentanoate (1.0 g, 6.32 mmol) were heated together under nitrogen at 200° C. for 4 hours, after which time more methyl 4,4-dimethyl-3-oxopentanoate (0.5 g, 3.16 mmol) was added and heating was continued for 2 hours. After cooling to room temperature, the reaction mixture was dissolved in dichloromethane and applied to a short column of silica gel (approx. 200 g). Elution with dichloromethane removed non-polar by-products, while subsequent elution with ether afforded 11-[1,1-dimethylethyl]-9-oxo-2,3,6,7-tetrahydro-1H,5H-[1]benzopyrano[6,7,8-ij]quinolizine (1.12 g, 71% yield) as a brown oil which solidified on standing. The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | 8-Hydroxyjulolidine | 5.29 mmol, 1.0 g | C1CC2=C3C(=C(C=C2)O)CCCN3C1 | C12H15NO
reactant | methyl 4,4-dimethyl-3-oxopentanoate | 6.32 mmol, 1.0 g | CC(C(CC(=O)OC)=O)(C)C | C8H14O3
reactant | methyl 4,4-dimethyl-3-oxopentanoate | 3.16 mmol, 0.5 g | CC(C(CC(=O)OC)=O)(C)C | C8H14O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 11-[1,1-dimethylethyl]-9-oxo-2,3,6,7-tetrahydro-1H,5H-[1]benzopyrano[6,7,8-ij]quinolizine | 1.12 g, 71% yield | CC(C)(C)C=1OC=2C(C(C1)=O)=CC=1CCCN3CCCC2C13 | C19H23NO2
